US04925873
Propylparaben 0.03 gm
The SQ 30,741 and parabens are mixed with dibutyl sebacate with gentle heat, not over 50° C., and melted together and Polysorbate 60 and cetyl alcohol added. Water is heated to 80° C. to dissolve the sodium carboxymethyl cellulose forming an aqueous phase which is added with vigorous agitation to the oil phase to emulsify. Agitation is continued until the temperature drops down to 48° C. Sufficient 50° C. water is added to make 100 gm. Mixing is continued at a slow rate to congeal the mixture, until the lotion drops down to room temperature.

reactant | dibutyl sebacate | C(CCCCCCCCC(=O)OCCCC)(=O)OCCCC | C18H34O4
reactant | cetyl alcohol | C(CCCCCCCCCCCCCCC)O | C16H34O
solvent | water | O | H2O
product | Propylparaben | C(CC)OC(=O)C1=CC=C(O)C=C1 | C10H12O3
